US06759414B2
Preparation of N-(5-Chloropyridin-2-yl)-2-(1-isopropylpiperidin-4-ylmethoxy)benzamide Hydrochloride
A solution of N-(5-chloropyridin-2-yl)-2-hydroxy-benzamide (200 mg, 0.806 mmol), 1-tert-butoxycarbonyl-piperidine-4-methanol (191 mg, 0.887 mmol), and triphenylphosphine (232 mg, 0.887 mmol) in THF was treated dropwise with a THF solution of diethyl diazodicarboxylate (DEAD) (0.14 mL, 0.887 mmol in 1 mL of THF). After 16 h, the mixture was treated with an additional equivalent of triphenylphosphine and DEAD. After 2 h, the mixture was concentrated, diluted with methylene chloride, and filtered. The solid collected was the desired product (128 mg, 36%). The filtrate was purified by column chromatography (SiO2; 4:1 hexanes:EtOAc) providing an additional 142 mg (40%) of the title compound.

reactant | N-(5-chloropyridin-2-yl)-2-hydroxy-benzamide | 0.806 mmol, 200 mg | ClC=1C=CC(=NC1)NC(C1=C(C=CC=C1)O)=O | C12H9ClN2O2
reactant | 1-tert-butoxycarbonyl-piperidine-4-methanol | 0.887 mmol, 191 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CO | C11H21NO3
reactant | triphenylphosphine | 0.887 mmol, 232 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl diazodicarboxylate | 0.887 mmol, 0.14 mL | [N+](=[N-])(C(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | THF | C1CCOC1 | C4H8O
product | N-(5-Chloropyridin-2-yl)-2-(1-isopropylpiperidin-4-ylmethoxy)benzamide Hydrochloride | 142 mg, 40% | Cl.ClC=1C=CC(=NC1)NC(C1=C(C=CC=C1)OCC1CCN(CC1)C(C)C)=O | InChI=1S/C21H26ClN3O2.ClH/c1-15(2)25-11-9-16(10-12-25)14-27-19-6-4-3-5-18(19)21(26)24-20-8-7-17(22)13-23-20;/h3-8,13,15-16H,9-12,14H2,1-2H3,(H,23,24,26);1H
